US05116402
Preparation of 2,3-dibromo-propionaldehyde diethyl-acetal
7 g of 1,2-dibromo-propionaldehyde are added to a mixture of 5 g of ortho-formic acid triethyl-ester and 10 ml of ethanol. The solution is refluxed for 2 hours, remains standing for a night, then it is vacuum-distilled.

reactant | 1,2-dibromo-propionaldehyde | 7 g | BrC(C(C)Br)=O | C3H4Br2O
reactant | ortho-formic acid triethyl-ester | 5 g | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,3-dibromo-propionaldehyde diethyl-acetal | C(C)OC(C(CBr)Br)OCC | C7H14Br2O2
